US09169203B2
Step 2: Synthesis of 4-(methylthio)-1-(octylamino)-1-oxobutan-2-yl acetate.
To a solution of 2-acetoxy-4-(methylthio)butanoic acid (6.10 g, 31.7 mmol) in dichloromethane (100 mL) at 0° C. was added thionyl chloride (11.53 mL, 158.5 mmol) slowly over 30 min. The reaction was allowed to warm to room temperature with stirring overnight. The solvent was evaporated and the resulting oil was dried on the high vacuum for 3 hrs. To a solution of the resulting oil in dichloromethane (100 mL) at 0° C. was added triethylamine (8.84 mL, 63.4 mmol) and then octylamine (5.24 mL, 31.7 mmol) and the reaction was allowed to warm to room temperature with stirring overnight. The reaction was evaporated, redissolved in EtOAc (150 mL) and washed with 1N HCl (3×100 mL), saturated sodium bicarbonate (3×100 mL), and brine (1×100 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to give an oil. The oil was purified by silica gel chromatography with 0-30% EtOAc/heptane to give a yellow oil. (6.61 g, 69%). m/z 304 (MH+).

reactant | 2-acetoxy-4-(methylthio)butanoic acid | 31.7 mmol, 6.10 g | C(C)(=O)OC(C(=O)O)CCSC | C7H12O4S
reactant | thionyl chloride | 158.5 mmol, 11.53 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 63.4 mmol, 8.84 mL | C(C)N(CC)CC | C6H15N
reactant | octylamine | 31.7 mmol, 5.24 mL | C(CCCCCCC)N | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(methylthio)-1-(octylamino)-1-oxobutan-2-yl acetate | C(C)(=O)OC(C(=O)NCCCCCCCC)CCSC | C15H29NO3S
